US06194461B1
Production of α-(2,6-difluorophenyl)-N-t-butylnitrone
To a suspension of 2,6-difluorobenzaldehyde (374.7 mg, 2.64 mmol), 1,1-dimethylnitroethane (541.6 mg, 5.25 mmol) and zinc (517.0 mg, 7.91 mmol) in ethanol (3.0 ml) was added acetic acid (940.5 mg, 15.7 mmol) dropwise at 5° C. while stirring. The mixture was stirred at room temperature for 5 hours. Zinc acetate in the mixture was filtered off and the filtrate was concentrated and purified by silica gel chromatography (hexane/ethyl acetate=5/2-2/1).

reactant | 2,6-difluorobenzaldehyde | 2.64 mmol, 374.7 mg | FC1=C(C=O)C(=CC=C1)F | C7H4F2O
reactant | 1,1-dimethylnitroethane | 5.25 mmol, 541.6 mg | CC(C)(C)[N+](=O)[O-] | C4H9NO2
reactant | acetic acid | 15.7 mmol, 940.5 mg | C(C)(=O)O | C2H4O2
solvent | ethanol | 3.0 ml | C(C)O | C2H6O
catalyst | zinc | 7.91 mmol, 517.0 mg | [Zn] | Zn
product | α-(2,6-difluorophenyl)-N-t-butylnitrone | FC1=C(C(=CC=C1)F)C=[N+]([O-])C(C)(C)C | C11H13F2NO
